US05502065
5-(5-Carbamoyl-2-thienyl)-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole
5-(5-Carbamoyl-2-thienyl)-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1-triisopropylsilylindole (see Preparation 61) was reacted with tetra-n-butylammonium fluoride in tetrahydrofuran, using a procedure similar to that described in Example 62. This yielded the title compound as an off-white foam. Found: C,64.93; H,6.33; N,11.60. C19H21N3OS.3/16CH2Cl2 requires: C,64.84; H,6.06; N,11.82%.

reactant | 5-(5-Carbamoyl-2-thienyl)-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1-triisopropylsilylindole | C(N)(=O)C1=CC=C(S1)C=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C[C@@H]1N(CCC1)C | C28H41N3OSSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(5-Carbamoyl-2-thienyl)-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole | C(N)(=O)C1=CC=C(S1)C=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C19H21N3OS
